US09034900B2
Step 1: 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one
A solution of 5-bromo-1-methylpyridin-2-one (200.0 mg, 1.06 mmol), bis(pinacolato)diboron (410.0 mg, 1.61 mmol), potassium acetate (270 mg, 2.67 mmol), Pd (dppf)Cl2 (80 mg, 0.11 mmol) in dioxane (5 mL) was heated at 100° C. for 2 h under microwave. The mixture was filtered, washed with water and extracted with ethyl acetate (20 mL×3). The combined organics were dried over Na2SO4, filtered and concentrated to give the crude title compound (59.0 mg, 23.6%). LCMS (M+H)+ 236.

reactant | 5-bromo-1-methylpyridin-2-one | 1.06 mmol, 200.0 mg | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | bis(pinacolato)diboron | 1.61 mmol, 410.0 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.67 mmol, 270 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 59.0 mg, 23.6% | CN1C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C12H18BNO3
